US07776847B2
N1-(Benzo[d]isothiazol-3-yl)propane-1,3-diamine (600 mg, 2.8 mmol) and 4′-methoxy-biphenyl-4-carboxaldehyde (614 mg, 2.8 mmol) were combined in 1,2-dichloroethane (20 mL) and treated with sodium triacetoxyborohydride (1.2 g, 5.7 mmol) and acetic acid (160 μL, 5.6 mmol). The mixture was stirred at room temperature overnight. The reaction was quenched by addition of saturated aqueous sodium bicarbonate solution. The crude product was extracted with ethyl acetate (2×50 mL). The organic extract was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by column chromatography, on silica gel, eluting with 98:2 methylene chloride: methanol to yield N1-(benzo[d]isothiazol-3-yl)-N3-((4′-methoxybiphenyl-4-yl)methyl)propane-1,3-diamine (330 mg) as a light yellow foam. 1H NMR (CDCl3): 7.80 (d, 1H), 7.75 (d, 1H), 7.25-7.45 (m, 8H), 6.90 (d, 2H), 3.95 (s, 2H), 3.85 (s, 3H), 3.70 (t, 2H), 3.00 (t, 2H), 2.30-2.40 ppm (m, 2H).

reactant | N1-(Benzo[d]isothiazol-3-yl)propane-1,3-diamine | 2.8 mmol, 600 mg | S1N=C(C2=C1C=CC=C2)NCCCN | C10H13N3S
reactant | 4′-methoxy-biphenyl-4-carboxaldehyde | 2.8 mmol, 614 mg | COC1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C14H12O2
reactant | sodium triacetoxyborohydride | 5.7 mmol, 1.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 5.6 mmol, 160 μL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | N1-(benzo[d]isothiazol-3-yl)-N3-((4′-methoxybiphenyl-4-yl)methyl)propane-1,3-diamine | 330 mg | S1N=C(C2=C1C=CC=C2)NCCCNCC2=CC=C(C=C2)C2=CC=C(C=C2)OC | C24H25N3OS
